US07888364B2
Procedure B was performed with 3,5-dimethyl-N-(4-chloro-3-iodophenyl)isoxazole-4-carboxamide (190 mg, 0.5 mmol) and 3-methyl-2-pyridylzinc bromide (2.5 mL of a 0.5 M solution in THF). The crude reaction was purified by silica gel chromatography (5-100% Ethyl acetate/Hexanes) to yield N-(4-chloro-3-(6-methylpyridin-2-yl)phenyl)-3,5-dimethylisoxazole-4-carboxamide as a white solid: TLC Rf=0.43 (50% ethyl acetate/hexanes); 1H NMR (CDCl3, 400 MHz) δ 8.52 (bs, 1H), 7.68 (m, 2H), 7.48 (m, 3H), 2.70 (s, 3H), 2.49 (s, 3H), 2.21 (s, 3H); MS (Q1) 342.3 (M)+.

reactant | 3,5-dimethyl-N-(4-chloro-3-iodophenyl)isoxazole-4-carboxamide | 0.5 mmol, 190 mg | CC1=NOC(=C1C(=O)NC1=CC(=C(C=C1)Cl)I)C | C12H10ClIN2O2
reactant | 3-methyl-2-pyridylzinc bromide | [Br-].CC=1C(=NC=CC1)[Zn+]
reactant | THF | C1CCOC1 | C4H8O
product | N-(4-chloro-3-(6-methylpyridin-2-yl)phenyl)-3,5-dimethylisoxazole-4-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1C(=NOC1C)C)C1=NC(=CC=C1)C | C18H16ClN3O2
